US04642308
The procedure is similar to that described in Example 1, but starting with 6-methoxypyridine-3-carboxylic acid (4.7 g), N,N'-carbonyldiimidazole (4.9 g) and 2-amino-7-phenoxy-1,8-naphthyridine (9.1 g). The product produced by precipitation in water (11 g; m.p. 115° C.) is dissolved in boiling acetonitrile (50 cc). After 10 hours' cooling at 20° C., the crystallised solid is separated by filtration, washed with diisopropyl ether (3×10 cc) and dried at 30° C. under reduced pressure (0.067 kPa). N-(7-Phenoxy-1,8-naphthyridin-2-yl)-6-methoxypyridine-3-carboxamide (7 g) is produced, m.p. 115°-120° C.

reactant | 6-methoxypyridine-3-carboxylic acid | 4.7 g | COC1=CC=C(C=N1)C(=O)O | C7H7NO3
reactant | 2-amino-7-phenoxy-1,8-naphthyridine | 9.1 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=CC=C1 | C14H11N3O
reactant | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | water | 11 g | O | H2O
product | N-(7-Phenoxy-1,8-naphthyridin-2-yl)-6-methoxypyridine-3-carboxamide | 7 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(=O)C=1C=NC(=CC1)OC | C21H16N4O3
